US07456177B2
Preparation of 9-Benzyl-3-(4-fluoro-phenyl)-3,4,9-triaza-tricyclo[5.3.1.02,6]undeca-2(6),4-diene
To a solution of 3-benzyl-7-dimethylaminomethylene-3-aza-bicyclo[3.2.1]octan-6-one (0.6 mmol) in ethanol (3 mL) was added (4-fluoro-phenyl)-hydrazine hydrochloride (0.7 mmol). The reaction mixture was heated at reflux overnight, cooled, concentrated and the residue was treated with dichloromethane and aqueous sodium bicarbonate solution. The aqueous layer was extracted with dichloromethane and the organic layer was dried and stripped to provide an oil that was purified by flash chromatography on silica gel eluting with 20% ethyl acetate/hexanes to yield product (0.23 mmol). 1H NMR (CDCl3, 400 MHz) δ 7.55 (m, 2H), 7.40 (s, 1H), 7.20–6.90 (m, 7H), 3.50 (br s, 2H), 3.25 (br s, 1H), 3.10 (br s, 1H), 2.95–2.6.

reactant | 3-benzyl-7-dimethylaminomethylene-3-aza-bicyclo[3.2.1]octan-6-one | 0.6 mmol | C(C1=CC=CC=C1)N1CC2C(C(C(C1)C2)=O)=CN(C)C | C17H22N2O
reactant | (4-fluoro-phenyl)-hydrazine hydrochloride | 0.7 mmol | Cl.FC1=CC=C(C=C1)NN
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 9-Benzyl-3-(4-fluoro-phenyl)-3,4,9-triaza-tricyclo[5.3.1.02,6]undeca-2(6),4-diene | 0.23 mmol | C(C1=CC=CC=C1)N1CC2C=3C=NN(C3C(C1)C2)C2=CC=C(C=C2)F | C21H20FN3
